* Z:\home\krati\spice\ee18btech11050_sim.asc
XU1 0 N001 Vcc -Vcc Vout LM741/NS
V1 Vcc 0 15
V2 0 -Vcc 15
C1 N004 N003 16n
C2 N003 N002 16n
C3 N002 Vout 16n
R5 N002 0 10k
R6 N003 0 10k
R3 Vout N001 292k
R8 N001 N004 10k
.include /home/krati/spice/LM741.MOD
.tran 0.002s 100s 
.include LM741.MOD
.control
run
wrdata ee18btech11050.dat V(Vout)
.backanno
.endc
.end

